US07741327B2
In a round bottom flask was placed (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide (70 mg, 0.13 mmol), methanol (3 mL) and p-toluenesulfonic acid (5 mg, 0.15 mmol). The mixture was stirred at 25° C. for 24 h and then concentrated in vacuo and dissolved in ethyl acetate and concentrated in vacuo with silica gel (1 g). Purification by Biotage flash chromatography (AnaLogix SF15-12 g column, 100% ethyl acetate to 10% methanol/ethyl acetate) afforded (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (52 mg, 82%) as a white foam: HR-ES-MS m/z calculated for C21H23N4O5ClF2 [M+H]+ 485.1398, observed 485.1396; 1H NMR (300 MHz, DMSO-d6) δ ppm 1.66 (t, J=19.3 Hz, 3H), 3.21-3.33 (m, 2H), 3.69-3.81 (m, 1H), 3.87 (dd, J=13.6, 7.5 Hz, 1H), 4.01-4.17 (m, 1H), 4.30 (d, J=18.4 Hz, 1H), 4.47 (d, J=18.4 Hz, 1H), 4.72 (t, J=5.6 Hz, 1H), 4.81 (s, 1H), 4.95 (d, J=5.1 Hz, 1H), 5.12 (dd, J=9.1, 5.1 Hz, 1H), 6.42 (d, J=2.1 Hz, 1H), 7.32-7.41 (m, 1H), 7.42-7.53 (m, 2H), 7.55 (dd, J=2.1 Hz, 1H), 7.66 (d, J=7.8 Hz, 1H), 10.85 (s, 1H).

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-yl-methyl)-1H-pyrazol-3-yl]-amide | 0.13 mmol, 70 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(C)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)C | C24H27ClF2N4O5
reactant | p-toluenesulfonic acid | 0.15 mmol, 5 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 3 mL | CO | CH4O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4,4-difluoro-pentanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 52 mg, 82% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(C)(F)F)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)CO | C21H23ClF2N4O5
